US08022223B2
Following the procedure in Example 7, Step C, 5-bromo-3-(4-fluorophenoxy)pyridin-2-amine (800 mg, 2.83 mmol) and benzoyl isothiocyanate (0.457 mL, 3.39 mmol) afforded 1-benzoyl-3-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea (1150 mg, 91.2% yield).

reactant | 5-bromo-3-(4-fluorophenoxy)pyridin-2-amine | 2.83 mmol, 800 mg | BrC=1C=C(C(=NC1)N)OC1=CC=C(C=C1)F | C11H8BrFN2O
reactant | benzoyl isothiocyanate | 3.39 mmol, 0.457 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | 1-benzoyl-3-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea | 1150 mg, 91.2% yield | C(C1=CC=CC=C1)(=O)NC(=S)NC1=NC=C(C=C1OC1=CC=C(C=C1)F)Br | C19H13BrFN3O2S
